US07105507B2
(RS)-10-Methyl-1,4-dioxa-7-azaspiro[4.5]decane Hydrochloride
A slurry of palladium on carbon (10%, 90 mg) in ethanol (10 mL) was added to a solution of (RS)-10-methyl-7-phenylmethyl)-1,4-dioxa-7-azaspiro[4.5]decane hydrochloride (Description 61, 750 mg, 2.65 mmol) in ethanol (30 mL) and the mixture was shaken under hydrogen (50 psi) for 24 hours. The mixture was filtered through Celite™ and the solvent was evaporated under reduced pressure to give the title compound as a colorless solid (510 mg, 99%). m/z (ES+) 158 (M+1).

reactant | 1,4-dioxa-7-azaspiro[4.5]decane hydrochloride | 2.65 mmol, 750 mg | Cl.O1CCOC12CNCCC2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 90 mg | [Pd] | Pd
product | (RS)-10-Methyl-1,4-dioxa-7-azaspiro[4.5]decane Hydrochloride | 510 mg, 99% | Cl.CC1CCNCC12OCCO2 | InChI=1S/C8H15NO2.ClH/c1-7-2-3-9-6-8(7)10-4-5-11-8;/h7,9H,2-6H2,1H3;1H
